US07754744B2
Step 2: (5-Methanesulfonyl-pyridin-2-yl)-piperidin-4-yl-amine
To a stirred solution of 4-(5-methanesulfonyl-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.00 g, 2.8 mmol, 1.0 equiv) in ethanol (18 mL) was added 4 M HCl in dioxane (3.52 mL, 14.1 mmol, 5.0 equiv) drop by drop and the reaction mixture stirred at 50° C. for 2 h. It was then cooled down to rt, poured into ice water and the pH adjusted to 9-10 by addition of a sat. solution of potassium carbonate. The solution was extracted six times with a mixture of dichloromethane/isopropanol (4:1). The combined organic layers were concentrated by evaporation under reduced pressure and the crude product was purified by crystallization from heptane to give 0.53 g (74%) of the title compound as colorless solid. MS (ISP): 256.2 [M+H]+.

reactant | 4-(5-methanesulfonyl-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 1.00 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)S(=O)(=O)C | C16H25N3O4S
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 14.1 mmol, 3.52 mL, 5.0 equiv | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 18 mL | C(C)O | C2H6O
product | (5-Methanesulfonyl-pyridin-2-yl)-piperidin-4-yl-amine | 0.53 g, 74% | CS(=O)(=O)C=1C=CC(=NC1)NC1CCNCC1 | C11H17N3O2S
